US05114925
N-[2-[[(2R,3S)-3-(Boc-L-phenylalanyl-L-histidylamino)-4-cyclohexyl-2-hydroxy-1-butyl]thio]acetyl]-N,N'-dimethylethylenediamine.
To 74 mg (0.11 mmole) of ethyl 2-[[(2R,3S)-3-(Boc-L-phenylalanyl-L-histidylamino)-4-cyclohexyl-2-hydroxy-1-butyl]thio]acetate was added 100 μl of N,N-dimethylethylenediamine. The mixture, which was stirred at room temperature in a stoppered flask, became homogeneous within a few minutes. After 18 hours, the mixture, which had gelled, was triturated thoroughly with hot ether. The resulting solid was collected on a filter and washed several times with ether, triturating thoroughly each time. This yielded 68 mg (86%) of white powder, mp 160°-164° (preliminary softening), virtually homogeneous by TLC (90:10:1 CHCl3 --MeOH-cond. NH4OH). Mass spectrum and 200 MHz NMR (DMSO d6) were in accord with the assigned structure.

reactant | ethyl 2-[[(2R,3S)-3-(Boc-L-phenylalanyl-L-histidylamino)-4-cyclohexyl-2-hydroxy-1-butyl]thio]acetate | 0.11 mmole, 74 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H]([C@H](CSCC(=O)OCC)O)CC1CCCCC1 | C34H51N5O7S
solvent | N,N-dimethylethylenediamine | 100 μl | CN(CCN)C | C4H12N2
product | N-[2-[[(2R,3S)-3-(Boc-L-phenylalanyl-L-histidylamino)-4-cyclohexyl-2-hydroxy-1-butyl]thio]acetyl]-N,N'-dimethylethylenediamine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H]([C@H](CSCC(=O)N(CCNC)C)O)CC1CCCCC1 | C36H57N7O6S
